US06071903
To a cooled mixture of 6.84 g (44 mmol) of D, L-serine, methyl ester hydrochloride and 21.4 (144 mmol) of triethylamine in 90 ml of CH2Cl2 was added a solution of 10.78 g (40 mmol) of 4-(4-pyridinyloxy)benzenesulfonyl chloride in 50 ml of CH2Cl2. The mixture was stirred at room temperature overnight, diluted with 50 ml of CH2Cl2 and the solution washed with H2O, 1N NaHCO3, 2N citric acid, brine and dried (with Na2SO4). The solvent was removed under vacuum to give a solid. The aqueous 2N citric acid wash was made basic with saturated NaHCO3 and then extracted with CH2Cl2. The solvent was removed to give a solid. The two crops of solid were combined, washed with H2O and then hexane. The solid was dried at 80° C. to give 10.95 g of methyl 3-hydroxy-2-[4-(4-pyridinyloxy)-benzenesulfonylamino]propionate as white crystals, mp. 137-139° C.

reactant | L-serine, methyl ester hydrochloride | Cl.N[C@@H](CO)C(=O)OC
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-(4-pyridinyloxy)benzenesulfonyl chloride | 40 mmol, 10.78 g | N1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | C11H8ClNO3S
solvent | CH2Cl2 | 90 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-hydroxy-2-[4-(4-pyridinyloxy)-benzenesulfonylamino]propionate | 10.95 g | OCC(C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=NC=C1 | C15H16N2O6S
